US05127937
Synthesis of preparation intermediate, methvl 2-(aminosulfonyl)4-(1H-pyrrol-1-yl)benzoate (Compound No. IIA-7)
In 3 ml of acetic acid, 300 mg (1.3 mmol) of methyl 4-amino2-(aminosulfonyl)benzoate and 0.23 ml of 2,5-dimethoxytetrahydrofuran were dissolved, followed by stirring at 110° C. for 1.5 hours. Acetic acid was then distilled off, followe by the addition of 30 ml of ice water. After the mixture thus obtained wa stirred for 20 minutes, the resulting precipitate was collected by filtration and dried in air. The brown solid thus obtained was purified b column chromatography, using silica gel ("Wako Gel C300", trade name; product of Wako Pure Chemical Industries, Ltd.) and dichloromethane, thereby obtaining the title compound as a white solid. Yield: 175.7 mg (48%). Its physicochemical properties are shown in Table 7.

reactant | methyl 4-amino2-(aminosulfonyl)benzoate | 1.3 mmol, 300 mg | NC1=CC(=C(C(=O)OC)C=C1)S(=O)(=O)N | C8H10N2O4S
reactant | 2,5-dimethoxytetrahydrofuran | 0.23 ml | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | methvl 2-(aminosulfonyl)4-(1H-pyrrol-1-yl)benzoate | NS(=O)(=O)C1=C(C(=O)OC)C=CC(=C1)N1C=CC=C1 | C12H12N2O4S
